US09388176B2
3-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]-N-[3-(trifluoromethyl)phenyl]benzamide
A mixture of 3-bromo-N-[3-(trifluoromethyl)phenyl]benzamide (379 mg, 1.10 mmol), 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine (200 mg, 1.10 mmol), RuPhos (15.4 mg, 0.033 mmol), Cl-RuPhos-Pd precatalyst (24 mg, 0.033 mmol), and sodium-t-butoxide (148 mg, 1.54 mmol) in anhydrous THF (30 ml) was heated at 80° C. under nitrogen for 21 hours. Upon cooling, the reaction mixture was diluted with EtOAc and the insolubles were filtered off (celite). The filtrate was concentrated and the residue was eluted through a flash column (silica gel 60, 230-400 mesh, 1:1 hexanes:EtOAc) to obtain a yellow, crystalline solid (389 mg, 80%).

reactant | 3-bromo-N-[3-(trifluoromethyl)phenyl]benzamide | 1.10 mmol, 379 mg | BrC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC1 | C14H9BrF3NO
reactant | 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine | 1.10 mmol, 200 mg | CSC=1N=CC2=C(N1)CCNC2 | C8H11N3S
reactant | sodium-t-butoxide | 1.54 mmol, 148 mg | CC(C)([O-])C.[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | RuPhos | 0.033 mmol, 15.4 mg | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
product | 3-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]-N-[3-(trifluoromethyl)phenyl]benzamide | 389 mg, 80% | CSC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C=CC2 | C22H19F3N4OS
